US08957089B2
82.3 1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol
The crude 1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline (10.25 g, 30.8 mmol) was treated with 47% aqueous hydrobromic acid (109 mL) and stirred at 120° C. for 4 h. The reaction mixture was cooled to room temperature. The aqueous layer was decanted. The crude product was treated with dichloromethan, methanol and water and the pH was adjusted to 10 with aqueous 1N sodium hydroxide solution. The product precipitated and the solid was collected by filtration. The product was washed with water and dried in vacuo at 30° C. Yield: 3.56 g (30.3, 12.38 mmol).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline | 30.8 mmol, 10.25 g | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OC | C20H20ClNO
solvent | hydrobromic acid | 109 mL | Br | BrH
product | 1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)O | C19H18ClNO
